US06503942B2
{4-[2-(Dimethylamino)-1-(1-hydroxy cyclohexyl)ethyl]phenoxy}methyl Pivalate
4-[2-(Dimethylamino)-1-(1-hydroxycyclohexyl)ethyl]phenol (1 g, 3.79 mmol), chloromethyl pivalate (0.75 g, 5 mmol), anhydrous K2CO3(0.7 g, 5 mmol) and KI (75 mg, 0.5 mmol) were stirred in acetonitrile (50 mL) and refluxed overnight. The solvent was evaporated and the residue was partitioned between ethyl acetate and water. The ethyl acetate was dried (MgSO4) and evaporated to give the title compound as a minor component.

reactant | 4-[2-(Dimethylamino)-1-(1-hydroxycyclohexyl)ethyl]phenol | 3.79 mmol, 1 g | CN(CC(C1(CCCCC1)O)C1=CC=C(C=C1)O)C | C16H25NO2
reactant | chloromethyl pivalate | 5 mmol, 0.75 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | K2CO3 | 5 mmol, 0.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | {4-[2-(Dimethylamino)-1-(1-hydroxy cyclohexyl)ethyl]phenoxy}methyl Pivalate | C(C(C)(C)C)(=O)OCOC1=CC=C(C=C1)C(CN(C)C)C1(CCCCC1)O | C22H35NO4
